US06743789B2
6-Chloro-8-methoxy-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester
8-Methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester (7.5 g, 25 mmol) and N,N-dimethyl-p-toluidine (10.8 mL, 75 mmol) were mixed in chlorobenzene (80 mL) under argon. Phosphorous oxide chloride (3.4 mL, 37 mmol) was added at rt, and the mixture heated at reflux for 3.5 h. The resulting solution was cooled to rt, diluted with CH2Cl2/aceton 100:15 (300 mL), and directly purified by flash chromatography on silica gel in CH2Cl2/acetone 100:15. The white product was recrystallized by dissolution in hot ethyl acetate (300 mL), concentrated until precipitation started (ca. 100 mL). Yield: 7 g (88%). mp 186° C. m/z 301 (M).

reactant | 8-Methoxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid ethyl ester | 25 mmol, 7.5 g | C(C)OC(=O)C=1N=CN2C3=C(C(NCC12)=O)C=C(C=C3)OC | C15H15N3O4
reactant | N,N-dimethyl-p-toluidine | 75 mmol, 10.8 mL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | Phosphorous oxide chloride | 37 mmol, 3.4 mL | [Cl-].[P+]=O
solvent | chlorobenzene | 80 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | CH2Cl2 aceton | 300 mL | C(Cl)Cl.CC(=O)C
product | 6-Chloro-8-methoxy-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CN2C3=C(C(=NCC12)Cl)C=C(C=C3)OC | C15H14ClN3O3
